US04178460
Preparation of α-Isopropyl-p-(1,1,2,2-tetrafluoroethoxy)phenylacetonitrile
A mixture of 39.85 g (0.171 mol) of p-(1,1,2,2-tetrafluoroethoxy)phenylacetonitrile, 3.71 g (9.96 mmol, 5.8 mol %) of dicyclohexyl-18-crown-6, 22.0 ml (28.8 g, 0.234 mol) of 2-bromopropane, 55 ml of benzene, and 55 ml of 50% sodium hydroxide is stirred for 45 minutes during which there is an exotherm from 25° C. to 43° C. The reaction mixture is then heated at 45° C. for 16.5 hours. After dilution with 200 ml of water, the reaction mixture is extracted with 200 ml of ether. The ether solution is washed with 400 ml of 12% hydrochloric acid, 200 ml of 5% hydrochloric acid, and 300 ml of water. The ether solution is dried with sodium sulfate, filtered, and then evaporated to give 47.13 g of an oil. This oil is vacuum distilled to give 34.83 g (74%), boiling point 83° C. to 85° C. at 0.055 to 0.090 mm Hg.

reactant | p-(1,1,2,2-tetrafluoroethoxy)phenylacetonitrile | 0.171 mol, 39.85 g | FC(C(F)F)(OC1=CC=C(C=C1)CC#N)F | C10H7F4NO
reactant | 2-bromopropane | 0.234 mol, 22.0 ml, 28.8 g | BrC(C)C | C3H7Br
reactant | sodium hydroxide | 55 ml | [OH-].[Na+]
catalyst | dicyclohexyl-18-crown-6 | 9.96 mmol, 3.71 g | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
solvent | benzene | 55 ml | C1=CC=CC=C1 | C6H6
product | α-Isopropyl-p-(1,1,2,2-tetrafluoroethoxy)phenylacetonitrile | 47.13 g | C(C)(C)C(C#N)C1=CC=C(C=C1)OC(C(F)F)(F)F | C13H13F4NO
